* C:\Users\andre\Downloads\Proyecto2\Tarea4.asc
XU1 0 N002 N001 N004 N005 N002 NC_01 N003 NE555
L1 Vo1 N001 470µ
C1f Vo1 0 1µ
V1 N004 0 4.5
C_V N005 0 100n
Vcc N003 0 4.5
R1 N002 N001 6.8k
C N002 0 10n
XU6 0 N008 N009 N006 N010 N008 N007 N006 NE555
Vcc1 N006 0 5
C1 N008 0 4.7n
C_V1 N010 0 10n
R_A N006 N007 1k
R_B N007 N008 15k
XU8 0 N017 N018 N014 N020 N017 N015 N014 NE555
Vcc2 N014 0 5
C2 N017 0 4.7n
C_V2 N020 0 10n
R_A1 N014 N015 1k
R_B1 N015 N017 15k
XU7 N019 N012 N016 N021 N013 LT1056
V9 N016 0 12
C10 N013 N012 4.7n
V_ref N019 0 2.5
R_in N012 N018 47k
V10 0 N021 12
R_par N013 N012 470k
.tran 0.1
* Senoidal
* [0, 120k]
* Out
* Cuadrada
* [0, 120k]
* Out
* Triangular
* Out
.lib LTC.lib
.lib NE555.sub
.backanno
.end
