* C:\Users\melis\OneDrive\Desktop\Proyecto2Analogicos\Tarea4.asc
* Generated by LTspice 24.1.10 for Windows.
X§U1 0 N002 N001 N004 N005 N002 NC_01 N003 NE555 ;§pnba GND)TRIG)OUT)RST)CV)THRS)DIS)Vcc
L1 Vo1 N001 470µ
C1f Vo1 0 1µ
V1 N004 0 4.5
C_V N005 0 100n
Vcc N003 0 4.5
R1 N002 N001 6.8k
C N002 0 10n
X§U6 0 N015 N008 N011 N017 N015 N013 N011 NE555 ;§pnba GND)TRIG)OUT)RST)CV)THRS)DIS)Vcc
Vcc1 N011 0 5
C1 N015 0 4.7n
C_V1 N017 0 10n
R_A N011 N013 1k
R_B N013 N015 15k
X§U8 0 N023 N024 N020 N026 N023 N021 N020 NE555 ;§pnba GND)TRIG)OUT)RST)CV)THRS)DIS)Vcc
Vcc2 N020 0 5
C2 N023 0 4.7n
C_V2 N026 0 10n
R_A1 N020 N021 1k
R_B1 N021 N023 15k
X§U7 N025 N019 N022 N027 N010 LT1056 ;§pnba In+)In-)V+)V-)OUT
V9 N022 0 12
C10 N010 N019 4.7n
V_ref N025 0 2.5
R_in N019 N024 47k
V10 0 N027 12
R_par N010 N019 470k
X§U3 N007 N012 N014 N007 N016 N009 Vo1 N008 N010 NC_02 0 ADG2404 ;§pnba VDD)A0)A1)EN)VSS)D)S1)S2)S3)S4)GND
Vcc3 N007 N006 12
Vcc4 N012 0 0
Vcc5 N014 0 5
C3 0 N006 1µ
C4 0 N016 1µ
.tran 0.1
* Senoidal
* [0, 120k]
* Out
* Cuadrada
* [0, 120k]
* Out
* Triangular
* Out
.lib ADG2404.sub
.lib LTC.lib
.lib NE555.sub
.backanno
.end
