* C:\Users\melis\OneDrive\Desktop\Proyecto2Analogicos\Tarea4.asc
* Generated by LTspice 24.1.10 for Windows.
X§U1 0 N002 N001 N004 N005 N002 NC_01 N003 NE555 ;§pnba GND)TRIG)OUT)RST)CV)THRS)DIS)Vcc
L1 Vo1 N001 470µ
C1f Vo1 0 1µ
V1 N004 0 4.5
C_V N005 0 100n
Vcc N003 0 4.5
R1 N002 N001 6.8k
C N002 0 10n
X§U6 0 N019 N010 N015 N021 N019 N017 N015 NE555 ;§pnba GND)TRIG)OUT)RST)CV)THRS)DIS)Vcc
Vcc1 N015 0 5
C1 N019 0 4.7n
C_V1 N021 0 10n
R_A N015 N017 1k
R_B N017 N019 15k
X§U8 0 N027 N028 N024 N030 N027 N025 N024 NE555 ;§pnba GND)TRIG)OUT)RST)CV)THRS)DIS)Vcc
Vcc2 N024 0 5
C2 N027 0 4.7n
C_V2 N030 0 10n
R_A1 N024 N025 1k
R_B1 N025 N027 15k
X§U7 N029 N023 N026 N031 N013 LT1056 ;§pnba In+)In-)V+)V-)OUT
V9 N026 0 12
C10 N013 N023 4.7n
V_ref N029 0 2.5
R_in N023 N028 47k
V10 0 N031 12
R_par N013 N023 470k
X§U3 N007 N016 N018 N007 N020 N012 Vo1 N010 N013 NC_02 0 ADG2404 ;§pnba VDD)A0)A1)EN)VSS)D)S1)S2)S3)S4)GND
Vcc3 N007 N006 12
Vcc4 N016 0 5
Vcc5 N018 0 0
C3 0 N006 1µ
C4 0 N020 1µ
Vcc6 N009 0 12
Vcc7 0 N014 12
D1 N011 N008 1N5819
C5 N008 0 100n
R2 N008 0 1000k
X§U2 N012 N008 N009 N014 N011 LT1056 ;§pnba In+)In-)V+)V-)OUT
.model D D
.lib C:\Users\melis\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0.1
* Senoidal
* [0, 120k]
* Out
* Cuadrada
* [0, 120k]
* Out
* Triangular
* Out
.lib ADG2404.sub
.lib LTC.lib
.lib NE555.sub
.backanno
.end
